US08530490B2
Synthesis of 2-(3-(cyclopropylmethoxy)phenyl)-N-methylethanamine
3-(2-Hydroxyethyl)phenol (2.5 g) was dissolved in DMF (18 mL). To the solution, potassium carbonate (5.0 g), sodium iodide (271 mg), and (chloromethyl)cyclopropane (1.75 mL) were added, and the mixture was stirred at 80° C. for 5 hours. The reaction mixture was cooled to room temperature, water (40 mL) was then added thereto, and the resultant mixture was then extracted with ethyl acetate (40 mL). The organic layer was dried over anhydrous magnesium sulfate and then concentrated under reduced pressure. The residue was purified by silica gel column chromatography (17% ethyl acetate/hexane). An aliquot (500 mg) of the obtained monoalcohol compound (2.6 g) was dissolved in dichloromethane (10 mL). To the solution, triethylamine (540 μL) and methanesulfonyl chloride (242 μL) were added, and the mixture was stirred at room temperature for 30 minutes. To the reaction mixture, an aqueous saturated sodium bicarbonate solution (10 mL) was added, and the resultant mixture was partitioned. The organic layer was washed with water (10 mL) and brine (10 mL), dried over anhydrous magnesium sulfate, and then concentrated under reduced pressure. The residue was dissolved in THF (6.0 mL). To the solution, an aqueous methylamine solution (40%, 6.0 mL) was added, and the mixture was stirred at 60° C. for 4 hours in a sealed tube. The reaction mixture was cooled to room temperature and then concentrated under reduced pressure. To the residue, an aqueous sodium hydroxide solution (1.0 M, 10 mL) was added, and the resultant mixture was then extracted with diethyl ether (20 mL). The organic layer was extracted with dilute hydrochloric acid (1.0 M, 20 mL), and the aqueous layer was turned into basic by the addition of an aqueous sodium hydroxide solution (4.0 M, 20 mL), and was then extracted with diethyl ether (20 mL). The organic layer was dried over potassium carbonate and concentrated under reduced pressure to obtain the title compound (310 mg) as a colorless oil.

reactant | 3-(2-Hydroxyethyl)phenol | 2.5 g | OCCC=1C=C(C=CC1)O | C8H10O2
reactant | potassium carbonate | 5.0 g | C([O-])([O-])=O.[K+].[K+]
reactant | sodium iodide | 271 mg | [I-].[Na+]
reactant | (chloromethyl)cyclopropane | 1.75 mL | ClCC1CC1 | C4H7Cl
reactant | DMF | 18 mL | CN(C)C=O | C3H7NO
solvent | water | 40 mL | O | H2O
product | 2-(3-(cyclopropylmethoxy)phenyl)-N-methylethanamine | 310 mg | C1(CC1)COC=1C=C(C=CC1)CCNC | C13H19NO
